US09102591B2
To a solution of compound 4,4-difluoro-1-(pyrimidin-5-yl)-cyclohexanecarbonitrile (1.5 g, 6.72 mmol) and DFMS (6.0 g, 0.02 mol) in trifluoromethylbenzene (53 mL) and H2O (21 mL) at room temperature was added TFA (766 mg, 6.72 mmol) followed by slow addition of t-BuOOH (5.2 g, 70% solution in H2O) with vigorous stirring. The reaction mixture was stirred at room temperature overnight. TLC indicates about 50% starting material remained, a second addition of DFMS (6.0 g, 0.02 mol) and t-BuOOH(5.2 g, 70% solution in H2O) were added to the reaction mixture. Upon consumption of starting material, the reaction mixture was portioned between DCM (20 mL) and saturated NaHCO3 solution (20 mL), the organic layer was separated and the aqueous layer was extracted with DCM (3×20 ml). The organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by flash chromatography (Petroleum ether:EtOAc=3:1) to give 1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexanecarbonitrile (800 mg, Yield: 44.4%). 1H NMR (CDCl3 400 MHz): δ9.03 (s, 2H), 6.71 (t, J=54.4 Hz, 1H), 2.40-2.27 (m, 6H).

reactant | 4,4-difluoro-1-(pyrimidin-5-yl)-cyclohexanecarbonitrile | 6.72 mmol, 1.5 g | FC1(CCC(CC1)(C#N)C=1C=NC=NC1)F | C11H11F2N3
reactant | H2O | 21 mL | O | H2O
reactant | TFA | 6.72 mmol, 766 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | t-BuOOH | 5.2 g | C(C)(C)(C)OO | C4H10O2
reactant | t-BuOOH | 5.2 g | C(C)(C)(C)OO | C4H10O2
solvent | trifluoromethylbenzene | 53 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
product | 1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexanecarbonitrile | 800 mg, Yield: 44.4% | FC(C1=NC=C(C=N1)C1(CCC(CC1)(F)F)C#N)F | C12H11F4N3
